US06664412B2
(S)-2-amino-6-methyl-6-nitroheptanoic Acid
2-Acetylamino-6-methyl-6-nitroheptanoic acid (49.5 g, 200 mmol) was dissolved in water (246 ml) and 30% sodium hydroxide was added to adjust its pH to 8.87. L-Acylase (4.95 g) and anhydrous cobalt chloride (0.27 g) were added to adjust its pH to 9 and the mixture was stirred overnight at room temperature. Concentrated hydrochloric acid was added to adjust its pH to 1.5 and the mixture was ice-cooled. The precipitated crystals were separated by filtration and the filtrate was washed twice with a mixture (250 ml) of toluene-isopropyl alcohol (1:1) and the aqueous layer was concentrated under reduced pressure. Methanol (100 ml) was added for concentration and methanol (100 ml) was further added for concentration. As a result, the objective compound was obtained (20.5 g).

reactant | 2-Acetylamino-6-methyl-6-nitroheptanoic acid | 200 mmol, 49.5 g | C(C)(=O)NC(C(=O)O)CCCC(C)([N+](=O)[O-])C | C10H18N2O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 246 ml | O | H2O
catalyst | cobalt chloride | 0.27 g | [Co](Cl)Cl
product | (S)-2-amino-6-methyl-6-nitroheptanoic Acid | N[C@H](C(=O)O)CCCC(C)([N+](=O)[O-])C | C8H16N2O4
